US08372837B2
To a mixture of 4-(1-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(3,4-dichlorophenyl)-6-oxo-1,6-dihydropyridazine-3-carboxylic acid (23 mg, 0.047 mmol) in THF (1 ml) at room temperature under argon was added HOBt (8.0 mg, 0.052 mmol), EDC (10.01 mg, 0.052 mmol), and was followed by 1 M methylamine in THF (0.237 mL, 0.237 mmol). The reaction mixture was stirred at room temperature overnight. EtOAc (10 mL) and 1 N NaOH (10 mL) were added to the reaction mixture. Layers were separated. Organic layer were washed with water (10 mL), and brine (10 mL). Organic phase was dried (MgSO4), filtered and concentrated. The crude product was purified by preparative HPLC (C18 column; 10-100% methanol in water without TFA) to give tert-butyl 4-(1-(3,4-dichlorophenyl)-3-(methylcarbamoyl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate (10 mg, white solid, 40.9%). 1H NMR (400 MHz, CDCl3) δ ppm 1.45 (s, 9H) 1.78-2.05 (m, 4H) 2.96 (d, J=5.27 Hz, 3H) 3.43-3.57 (m, 2H) 3.57-3.72 (m, 2H) 4.49-4.71 (m, 1H) 6.28 (s, 1H) 6.58-6.69 (m, J=3.95 Hz, 1H) 7.46 (dd, 1H) 7.54 (d, 1H) 7.70 (d, J=2.20 Hz, 1H). MS (ESI) 441 (M+H-tBu).

reactant | 4-(1-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(3,4-dichlorophenyl)-6-oxo-1,6-dihydropyridazine-3-carboxylic acid | 0.047 mmol, 23 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C(=NN(C(C1)=O)C1=CC(=C(C=C1)Cl)Cl)C(=O)O | C21H23Cl2N3O6
reactant | HOBt | 0.052 mmol, 8.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.052 mmol, 10.01 mg
reactant | methylamine | 1 M | CN | CH5N
reactant | NaOH | 1 N, 10 mL | [OH-].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 0.237 mmol, 0.237 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 4-(1-(3,4-dichlorophenyl)-3-(methylcarbamoyl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate | 10 mg, 40.9% | ClC=1C=C(C=CC1Cl)N1N=C(C(=CC1=O)OC1CCN(CC1)C(=O)OC(C)(C)C)C(NC)=O | C22H26Cl2N4O5
